US04983592
3-(Hexadecyloxy)phenol
To a suspension of 29.6 g of sodium hydride in 215 ml of N,N-dimethylformamide was added dropwise over 1.5 hours a solution of 54.33 g of resorcinol in 145 ml of N,N-dimethylformamide and 72 ml of tetrahydrofuran. The resulting mixture was cooled to 0° C. and 7.4 g of sodium iodide added followed by the dropwise addition of 155.0 g of hexadecylbromide over 1 hour. The bath was removed and the mixture stirred at ambient temperature for 17 hours. The mixture was diluted with 500 ml of iced dilute hydrochloric acid, extracted with ether and filtered. The ether layer was dried over magnesium sulfate and evaporated to an oil which was purified by chromatography on silica gel using ethyl acetate-hexanes giving 37.2 g of the desired compound as a white solid, m.p. 58°-59° C.

reactant | sodium hydride | 29.6 g | [H-].[Na+]
reactant | resorcinol | 54.33 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | sodium iodide | 7.4 g | [I-].[Na+]
reactant | hexadecylbromide | 155.0 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
solvent | N,N-dimethylformamide | 215 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 145 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 72 ml | O1CCCC1 | C4H8O
product | 3-(Hexadecyloxy)phenol | C(CCCCCCCCCCCCCCC)OC=1C=C(C=CC1)O | C22H38O2
